US06638929B2
Following procedure 1 of Example 149, a mixture of 0.105 g (0.20 mmol) of 8-(3-chloropropoxy)-4-(2,4-dichloro-5-methoxyphenylamino)-7-methoxybenzo[g]quinoline-3-carbonitrile, 0.3 mL of morpholine and 0.01 g of sodium iodide in 10 mL of 1,2-dimethoxyethane is heated under reflux for 7 hours. The resulting solid is purified by silica gel chromatography, utilizing a 98:2 to 94:6 gradient of methylene chloride/methanol to give 0.089 g of 4-(2,4-dichloro-5-methoxyphenylamino)-7-methoxy-8-(3-morpholin-4-yl-propoxy)benzo[g]quinoline-3-carbonitrile as a yellow solid, mp 205-208° C.

reactant | 8-(3-chloropropoxy)-4-(2,4-dichloro-5-methoxyphenylamino)-7-methoxybenzo[g]quinoline-3-carbonitrile | 0.20 mmol, 0.105 g | ClCCCOC1=CC2=C(C=C3C(=C(C=NC3=C2)C#N)NC2=C(C=C(C(=C2)OC)Cl)Cl)C=C1OC | C25H20Cl3N3O3
reactant | morpholine | 0.3 mL | N1CCOCC1 | C4H9NO
reactant | sodium iodide | 0.01 g | [I-].[Na+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | 4-(2,4-dichloro-5-methoxyphenylamino)-7-methoxy-8-(3-morpholin-4-yl-propoxy)benzo[g]quinoline-3-carbonitrile | 0.089 g | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)OCCCN3CCOCC3)OC)C#N | C29H28Cl2N4O4
